US08258332B2
N-trimethylsilyl-2-chloro-2-methy-1-aza-2-silacyclopentane (cyclic APMCS, which may be referred to as c-APMCS) was prepared as follows. To a 300 mL nitrogen purged bottle equipped with stir bar was added 20.1 g (0.1 mol) of N,N-bis(trimethylsilyl)allyl amine, 11.5 g (0.1 mol) of dichloromethylsilane, and 0.81 mL of 2.4 wt % Karsted's Catalyst in xylene. The solution was stirred for 72 hrs, then heated at 65° C. for 2 hrs, and heated at 100° C. for a further 3 days. The product was distilled at 85-90° C. at 25 mm Hg. GC/MS confirmed structure. Proton NMR was also used to determine structure.

reactant | N,N-bis(trimethylsilyl)allyl amine | 0.1 mol, 20.1 g | C[Si](N([Si](C)(C)C)CC=C)(C)C | C9H23NSi2
reactant | dichloromethylsilane | 0.1 mol, 11.5 g | ClC(Cl)[SiH3] | CH4Cl2Si
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | N-trimethylsilyl-2-chloro-2-methy-1-aza-2-silacyclopentane | C[Si](N1[Si](CCC1)(C)Cl)(C)C | C7H18ClNSi2
